US05843973
Trans-4-t-butyldimethylsilyloxymethylcyclohexylacetonitrile
In 100 ml of dry dimethylformamide were suspended 11.0 g of trans-4-methanesulfonyloxymethyl-1-t-butyldimethylsilyloxymethylcyclohexane, 5.87 g of sodium iodide and 1.92 g of sodium cyanide, and the mixture was stirred at 50° C. for 1 hour and 45 minutes and further at 110° C. for 45 minutes. The reaction mixture was poured into 100 ml of ice-water and the mixture was extracted with 300 ml of ether. The extracts were washed with an aqueous citric acid solution, an aqueous sodium chloride solution, an aqueous sodium bicarbonate solution and an aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (20:1-5:1) as an eluting solvent to obtain 7.41 g of the desired compound as a colorless oil.

reactant | trans-4-methanesulfonyloxymethyl-1-t-butyldimethylsilyloxymethylcyclohexane | 11.0 g | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)CO[Si](C)(C)C(C)(C)C | C15H32O4SSi
reactant | sodium iodide | 5.87 g | [I-].[Na+]
reactant | sodium cyanide | 1.92 g | [C-]#N.[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Trans-4-t-butyldimethylsilyloxymethylcyclohexylacetonitrile | 7.41 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC[C@H](CC1)CC#N | C15H29NOSi
